US07030145B2
4-(2-Chloro-6-methylpyridine-3-sulfonyl)-benzoic acid methyl ester, synthesized following the procedure of Example 9 parts A–D in 39% overall yield, (1.29 g, 3.96 mmol) was dissolved in 25 mL of dry ether and cooled to −78° C. To that a 1 M solution of DIBAL-H in hexanes (8.71 mL, 8.71 mmol) was added and the reaction mixture was allowed to warm to 25° C. and stirred for 4 h. The reaction was quenched with water followed by 1 N HCl (40 mL), stirred for 15 min, neutralized with 50% NaOH and extracted with ether and the ether extracts were combined, washed with brine, dried and stripped in vacuo to give 1.15 g of [4-(2-chloro-6-methylpyridine-3-sulfonyl)-phenyl]-methanol.

reactant | 4-(2-Chloro-6-methylpyridine-3-sulfonyl)-benzoic acid methyl ester | COC(C1=CC=C(C=C1)S(=O)(=O)C=1C(=NC(=CC1)C)Cl)=O | C14H12ClNO4S
reactant | DIBAL-H | CC(C)C[AlH]CC(C)C
solvent | ether | 25 mL | CCOCC | C4H10O
product | [4-(2-chloro-6-methylpyridine-3-sulfonyl)-phenyl]-methanol | 1.15 g | ClC1=NC(=CC=C1S(=O)(=O)C1=CC=C(C=C1)CO)C | C13H12ClNO3S
